US07211601B2
(3EZ,5S)-5-(1H-benzimidazol-2-yl)-1-(diphenylacetyl)-3-pyrrolidinone O-methyloxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and 1,2-benzenediamine the title compound was obtained in 72% purity by LC/MS. MS(ESI+): m/z=425.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 1,2-benzenediamine | C=1(C(=CC=CC1)N)N | C6H8N2
product | (3EZ,5S)-5-(1H-benzimidazol-2-yl)-1-(diphenylacetyl)-3-pyrrolidinone O-methyloxime | CON=C1CN([C@@H](C1)C1=NC2=C(N1)C=CC=C2)C(C(C2=CC=CC=C2)C2=CC=CC=C2)=O | C26H24N4O2
